US05858995
A mixture of 3-chloroacetyl-2-methyl-7-nitrobenzo[b]furan (431 mg) and thiourea (194 mg) in ethanol (10 ml) was refluxed for 1.5 hours. The separated solid was collected, washed with ethanol and dried to give 3-(2-aminothiazol-4-yl)-2-methyl-7-nitrobenzo[b]furan hydrochloride (485 mg).

reactant | 3-chloroacetyl-2-methyl-7-nitrobenzo[b]furan | 431 mg | ClCC(=O)C=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C11H8ClNO4
reactant | thiourea | 194 mg | NC(=S)N | CH4N2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(2-aminothiazol-4-yl)-2-methyl-7-nitrobenzo[b]furan hydrochloride | 485 mg | Cl.NC=1SC=C(N1)C=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | InChI=1S/C12H9N3O3S.ClH/c1-6-10(8-5-19-12(13)14-8)7-3-2-4-9(15(16)17)11(7)18-6;/h2-5H,1H3,(H2,13,14);1H
